US06451854B1
1a: (±)-2-bromobutyric acid, 2,6-dimethoxy-4-methylphenyl ester
2-Bromobutyryl bromide (31.1 ml) was added to a stirred solution of 2,6-dimethoxy-4-methylphenol (45 g) in dry dichloromethane (500 ml), whereupon triethylamine (37.3 ml) was added dropwise over 30 minutes, maintaining the internal temperature below 10° C. using an ice-salt bath. During the addition a white precipitate formed. After addition was complete the reaction mixture was stirred for 1.5 hours, then filtered. The solid was washed with diethyl ether (200 ml) and the filtrate washed twice with saturated sodium bicarbonate solution (100 ml). The organic phase was dried over magnesium sulphate, filtered and the solvent removed under reduced pressure to give the crude product as an oil (79.4 g). To remove any residual starting phenol, the oil was dissolved in diethyl ether and washed with sodium hydroxide solution (0.1 M; 3×100 ml), then water (4×100 ml). The organic phase was dried over magnesium sulphate, filtered and the solvent removed under reduced pressure to give the title compound as a yellow oil (72.9 g).

reactant | 2-Bromobutyryl bromide | 31.1 ml | BrC(C(=O)Br)CC | C4H6Br2O
reactant | 2,6-dimethoxy-4-methylphenol | 45 g | COC1=C(C(=CC(=C1)C)OC)O | C9H12O3
reactant | triethylamine | 37.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (±)-2-bromobutyric acid, 2,6-dimethoxy-4-methylphenyl ester | 72.9 g | BrC(C(=O)OC1=C(C=C(C=C1OC)C)OC)CC | C13H17BrO4
